US04005107
Five parts of the foregoing β-(2-oxocyclododecyl)propionic acid morpholine amide, 0.2 part of paratoluene sulfonic acid, 50 parts of acetic acid, and 5 parts of acetic anhydride were refluxed for 36 hours. And then 300 parts of benzene was added into the solution and washed with aqueous sodium bicarbonate to remove the catalyst and acetic acid. Thereafter, the resulting solution was treated by the same method as described in Example 1 to give 1.54 parts of 13-oxabicyclo(10.4.0)hexadec-1(12)-en-14-one in 32.8% yield.

reactant | paratoluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 13-oxabicyclo(10.4.0)hexadec-1(12)-en-14-one | 32.8% yield | C1=2CCCCCCCCCCC2OC(CC1)=O | C15H24O2
